US04051076
tricyclo[8.4.0.02,9 ]tetradecane-11-one
A solution of 29.4 g. (0.3 mol.) of cyclohexenone and 200 ml. of cyclooctene in 2600 ml. of dichloromethane was irradiated at -65° C. in the low temperature photolysis apparatus described in Organic Prep. Proc. Int. 3, 61 (1971) with a 1000 watt G.E. mercury arc through a Corning 9700 glass filter for 4 hours. At the end of the photolysis the solution was concentrated in vacuo and the product was distilled through a short Vigreux-column to yield 51.8 g. (0.249 mol., 83% yield) of a mixture of four isomers having b.p. 108°-127° C./0.4 mm.Hg. IR: 1695 cm-1 confirmed the structure.

reactant | cyclohexenone | 0.3 mol | C1(C=CCCC1)=O | C6H8O
reactant | cyclooctene | C1=CCCCCCC1 | C8H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | tricyclo[8.4.0.02,9 ]tetradecane-11-one | 83% yield | C12C3CCCCCCC3C2C(CCC1)=O | C14H22O
